US08258130B2
A solution of 1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indol-4-carboxylic acid methyl ester (0.48 mmol) and LiOH (1.91 mmol) in Methanol/THF/H2O (1:1:1, 6 mL) is stirred at rt overnight. The reaction mixture is diluted with water and washed with DCM. The aqueous layer is separated and acidified with 10% aqueous HCl to adjust pH to 1. The mixture is extracted with ether twice. The organic layer is dried (Na2SO4), filtered and concentrated in vacuo to afford 1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indol-4-carboxylic acid (186 mg, 99%) as a solid. MS: 391 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.85 (s, 3H), 7.20 (m, H), 7.24-7.40 (m, 2H), 7.46-7.61 (m, 2H), 7.66 (d, H), 7.92 (d, H), 8.23 (d, H), 8.37 (d, H), 9.16 (s, H).

reactant | 1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indol-4-carboxylic acid methyl ester | 0.48 mmol | COC(=O)C=1C=2C=CN(C2C=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C22H17FN4O3
reactant | LiOH | 1.91 mmol | [Li+].[OH-]
solvent | Methanol THF H2O | 6 mL | CO.C1CCOC1.O
solvent | water | O | H2O
product | 1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indol-4-carboxylic acid | 186 mg, 99% | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)NN1C=CC=2C(=CC=CC12)C(=O)O | C21H15FN4O3
